US06355799B1
Preparation of 6-chloro-4-fluoro-2-nitro-3-(tetrahydrophthalimido)phenol (Compound no. 8-1)
2-Chloro-4-fluoro-5-(tetrahydrophthalimido)phenol (5.0 g) was added into nitric acid (50 ml) at 0° C., warmed up to room temperature in 30 minutes. Crushed ice was added and the solution extracted with methylene chloride. The organic phase was washed with water, dried over anhydrous sodium sulfate, and purified by a silica gel column, eluted with metliylene chloride-ethyl acetate (19:1) to give 3.67 g of the desired product.

reactant | 2-Chloro-4-fluoro-5-(tetrahydrophthalimido)phenol | 5.0 g | ClC1=C(C=C(C(=C1)F)N1C(C2C(C1=O)CCC=C2)=O)O | C14H11ClFNO3
reactant | nitric acid | 50 ml | [N+](=O)(O)[O-] | HNO3
product | 6-chloro-4-fluoro-2-nitro-3-(tetrahydrophthalimido)phenol | 3.67 g | ClC1=CC(=C(C(=C1O)[N+](=O)[O-])N1C(C2C(C1=O)CCC=C2)=O)F | C14H10ClFN2O5
